US08957203B2
Step 1: Preparation of 6-methoxy-4-(4-methylpiperazin-1-yl)isoquinolin-1(2H)-one
To a solution of 4-bromo-6-methoxyisoquinolin-1(2H)-one (0.25 g, 0.984 mmol) and 1-methylpiperazine (0.197 g, 1.968 mmol) in ethylene glycol (2 ml) was added DIPEA (0.516 ml, 2.95 mmol). The reaction was irradiated in microwave at 140° C. for 1 h. The reaction mixture was adsorbed on silica was purified by silica gel chromatography (30% ethyl acetate in pet ether) to get the desired compound (0.16 g, 53.5%) as solid. MS: MS m/z 274.18 (M++1).

reactant | 4-bromo-6-methoxyisoquinolin-1(2H)-one | 0.984 mmol, 0.25 g | BrC1=CNC(C2=CC=C(C=C12)OC)=O | C10H8BrNO2
reactant | 1-methylpiperazine | 1.968 mmol, 0.197 g | CN1CCNCC1 | C5H12N2
reactant | DIPEA | 2.95 mmol, 0.516 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethylene glycol | 2 ml | C(CO)O | C2H6O2
product | 6-methoxy-4-(4-methylpiperazin-1-yl)isoquinolin-1(2H)-one | 0.16 g, 53.5% | COC=1C=C2C(=CNC(C2=CC1)=O)N1CCN(CC1)C | C15H19N3O2
